US04983592
3-Tetradecylphenol
To a solution of 136.8 g of 3-methoxy-1-tetradecylbenzene in 600 ml of methylene chloride, cooled to -78° C., under inert gas, was added dropwise a solution of 112.8 g of boron tribromide in 100 ml of methylene chloride. The mixture was kept at -78° C. for 1 hour then allowed to warm slowly to room temperature followed by stirring for 16 hours. The mixture was cooled to 0° C. and cold water added dropwise. The organic layer was separated and washed with aqueous sodium bicarbonate, dried and the solvent evaporated. The residue was poured onto crushed ice and 107 g of the desired product collected as a white solid, m.p. 38°-40° C.

reactant | 3-methoxy-1-tetradecylbenzene | 136.8 g | COC=1C=C(C=CC1)CCCCCCCCCCCCCC | C21H36O
reactant | boron tribromide | 112.8 g | B(Br)(Br)Br | BBr3
reactant | water | O | H2O
solvent | methylene chloride | 600 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 3-Tetradecylphenol | C(CCCCCCCCCCCCC)C=1C=C(C=CC1)O | C20H34O
